US07632832B2
4-(4-Benzyl-2-oxoimidazolidin-1-yl)-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide
(3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one (23 mg, 0.069 mmol) (Y.-J. Shi et al., Tetrahedron, 1999, 55, 909-918) and triethylamine (0.009 μL, 0.069 mmol) were added to a solution of p-nitrophenylchloroformate (14 mg, 0.069 mmol) in tetrahydrofuran (15 mL) at 0 oC. After 1 h, 4-benzyl-1-piperidin-4-ylimidazolidin-2-one (18 mg, 0.069 mmol) and additional triethylamine (0.027 mL, 0.207 mmol) were added and the reaction warmed to ambient temperature. After 16 h, the reaction was concentrated and partitioned between ethyl acetate and 1 N sodium hydroxide solution. The organics were washed with water, brine, and dried over magnesium sulfate. Purification by silica gel chromatography (100% dichloromethane=9% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (30 mg). MS 619.6 (M+1)

reactant | (3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.069 mmol, 23 mg | N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | triethylamine | 0.069 mmol, 0.009 μL | C(C)N(CC)CC | C6H15N
reactant | 4-benzyl-1-piperidin-4-ylimidazolidin-2-one | 0.069 mmol, 18 mg | C(C1=CC=CC=C1)C1NC(N(C1)C1CCNCC1)=O | C15H21N3O
reactant | triethylamine | 0.207 mmol, 0.027 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(4-Benzyl-2-oxoimidazolidin-1-yl)-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide | 30 mg | C(C1=CC=CC=C1)C1NC(N(C1)C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O)=O | C33H33F3N6O3
